US07122544B2
4-{4-[4-(Morpholine-4-sulfonyl)-phenyl]-pyrimidin-2-ylamino}-benzoic acid (0.25 g, 0.57 mmol) was dissolved in THF (5 mL). To this solution was added 1-furoylpiperazine (0.123 g), EDCI (0.131 g), and HOBt (0.092 g). The mixture was stirred 12 h. The mixture was then diluted with CH2Cl2 (20 mL) and washed with 2% NaOH (aq, 30 mL), water (30 mL), and then brine (30 mL). The organic layer was dried (Na2SO4), filtered, and concentrated. The crude solid was subjected to preparatory HPLC (20-70 acetonitrile/water gradient, 20 min). The desired fractions were concentrated to remove most of the acetonitrile, and then the aqueous mixture was extracted with CH2Cl2/2% NaOH (aq). The organic layer was dried (Na2SO4), filtered, and concentrated to afford [4-(furan-2-carbonyl)piperazin-1-yl](4-{4-[4-(morpholine-4-sulfonyl)-phenyl]pyrimidin-2-ylamino}phenyl)methanone (0.177 g, 52%): HPLC Retention Time; 9.62 min. (Method B) M+H=603.3

reactant | 4-{4-[4-(Morpholine-4-sulfonyl)-phenyl]-pyrimidin-2-ylamino}-benzoic acid | 0.57 mmol, 0.25 g | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C21H20N4O5S
reactant | 1-furoylpiperazine | 0.123 g | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
reactant | EDCI | 0.131 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.092 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | [4-(furan-2-carbonyl)piperazin-1-yl](4-{4-[4-(morpholine-4-sulfonyl)-phenyl]pyrimidin-2-ylamino}phenyl)methanone | 0.177 g, 52% | O1C(=CC=C1)C(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C30H30N6O6S
